US05354755
Preparation of 1-(p-Bromophenyl)-3-(3,4-dihydro-8-hydroxy-4-oxo-3-quinazolinyl)urea
A 1.0 molar solution of boron trichloride in dichloromethane (24 mL, 24.0 mmol BCl3) is added to a mixture of 1-(p-bromophenyl)-3-(3,4-dihydro-8-methoxy-4-oxo-3-quinazolinyl)urea (3.08 g, 7.91 mmol) in dichloromethane. The reaction mixture is stirred for 20 hours at room temperature, adjusted to about pH 8 with sodium hydrogen carbonate and concentrated in vacuo to obtain a slurry. The slurry is filtered and the filter cake is washed with water and dried to give the title product as a white solid, 2.55 g, mp 276°-278° C., which is identified by 1HNMR spectral analysis.

reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | 1-(p-bromophenyl)-3-(3,4-dihydro-8-methoxy-4-oxo-3-quinazolinyl)urea | 7.91 mmol, 3.08 g | BrC1=CC=C(C=C1)NC(=O)NN1C=NC2=C(C=CC=C2C1=O)OC | C16H13BrN4O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 24.0 mmol, 24 mL | ClCCl | CH2Cl2
product | 1-(p-Bromophenyl)-3-(3,4-dihydro-8-hydroxy-4-oxo-3-quinazolinyl)urea | BrC1=CC=C(C=C1)NC(=O)NN1C=NC2=C(C=CC=C2C1=O)O | C15H11BrN4O3
